US07754727B2
A mixture of (3R*,4R*)-4-dibenzofuran-4-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester (prepared analogously as described in Example 1; 191 mg, 0.38 mmol) and HCl (5 M in 2-propanol, 2 mL, 10 mmol) is stirred for 1 h at RT. The solvent is removed in vacuo and the residue purified by preparative HPLC (CH3CN/H2O). A saturated aqueous NaHCO3 solution is added to the combined pure fractions, CH3CN is evaporated in vacuo, and the remaining aqueous layer extracted twice with DCM. The combined organic phases are dried (Na2SO4) and evaporated. The resulting gum is treated with HCl (4M in 1,4-dioxane, 1 mL) and stirred for 30 min at RT. Evaporation of the solvent in vacuo yields (3R*,4R*)-4-dibenzofuran-4-yl-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride as a white solid: MS 408.6 [M+H]+; Rf 0.20 (DCM/MeOH 9:1).

reactant | (3R*,4R*)-4-dibenzofuran-4-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=CC2=C1OC1=C2C=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C33H33NO4
reactant | HCl | 10 mmol, 5 M, 2 mL | Cl | ClH
product | (3R*,4R*)-4-dibenzofuran-4-yl-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride | Cl.C1=CC=C(C=2OC3=C(C21)C=CC=C3)[C@@H]3[C@H](CNCC3)OCC3=CC2=CC=CC=C2C=C3 | InChI=1S/C28H25NO2.ClH/c1-2-7-21-16-19(12-13-20(21)6-1)18-30-27-17-29-15-14-23(27)25-10-5-9-24-22-8-3-4-11-26(22)31-28(24)25;/h1-13,16,23,27,29H,14-15,17-18H2;1H/t23-,27+;/m1./s1
